US06984653B2
(i) Production of 2-[(E)-2-(2,4-difluorophenyl)ethenyl]-4-[[4-[4-[2-[2-(methylsulfanyl)ethyl]-1H-imidazol-1-yl]butyl]phenoxy]methyl]-1,3-oxazole
Using 4-[4-[4-[2-[2-(methylsulfanyl)ethyl]-1H-imidazol-1-yl]butyl]phenol (500 mg), 65% sodium hydride (69.8 mg) and 4-chloromethyl-2-[(E)-2-(2,4-difluorophenyl)ethenyl]-1,3-oxazole (483 mg), the same reaction as Example 11-(i) was carried out to yield the titled compound (812 mg) as a colorless amorphous form.

reactant | 4-[4-[2-[2-(methylsulfanyl)ethyl]-1H-imidazol-1-yl]butyl]phenol | 500 mg | CSCCC=1N(C=CN1)CCCCC1=CC=C(C=C1)O | C16H22N2OS
reactant | sodium hydride | 69.8 mg | [H-].[Na+]
reactant | 4-chloromethyl-2-[(E)-2-(2,4-difluorophenyl)ethenyl]-1,3-oxazole | 483 mg | ClCC=1N=C(OC1)\C=C\C1=C(C=C(C=C1)F)F | C12H8ClF2NO
product | 2-[(E)-2-(2,4-difluorophenyl)ethenyl]-4-[[4-[4-[2-[2-(methylsulfanyl)ethyl]-1H-imidazol-1-yl]butyl]phenoxy]methyl]-1,3-oxazole | 812 mg | FC1=C(C=CC(=C1)F)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C(=NC=C1)CCSC | C28H29F2N3O2S
